Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Strokes noted on MRI at outside hospital
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo man with PMH of schizophrenia, afib, CAD with 
CABG, HTN, DM, Seizure Disorder, Chronic Gait disorder, 
microscopic intracranial hemorrhages, polyneuropathy who 
presents as transfer from OSH after MRI showed a right pontine 
infarct and a left int capsule infarct.  He is a very 
disorganized historian and unable to give a history other than 
he notes left leg weakness for "days" now.  He has no other new 
complaints.

His records from ___ show that he had a 
mechanical fall on ___ and presented to the ED.  ON ___ he 
presented to his neurologist Dr ___ noted new deficits 
concerning for a posterior circulation stroke.  He was sent to 
the ED for MRI and had new infarcts as described.

 
Past Medical History:
Afib- currently on digoxin
CAD s/p CABG
Seizure disorder- on dilantin and celontin, recently reduced 
dilantin dose. Has seizure frequency of ___ per month. Described 
at generalized tonic clonic. Followed by Dr. ___.
HTN
DM with gastropathy neuropathy
Schizophrenia
Reported remote microscopic intracranial hemorrhages of unclear
etiology 
Chronic Gait disorder gradually worsening over last year
Polyneuropathy

 
Social History:
___
Family History:
History of DM. Pt is otherwise unsure.
 
Physical Exam:
T- 98.0  BP- 146/72    HR- 70  RR- 18  O2Sat   98 RA
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender 
ext: no edema

Neurologic examination: 
Mental status: Awake and alert, very disorganized thoughts,
cooperative with exam, strange flat
affect.  Oriented to person, place, and date.  Attentive but
makes 3 mistakes on MOYB, .  Speech is fluent with normal
comprehension; naming intact. No dysarthria. Reading intact. 
Registers ___ and recalls 0 two times. No right left confusion.
No evidence of apraxia or neglect.
 
Cranial Nerves:  
Pupils round and reactive to light, 4 to 2 mm left and ___re full to confrontation. Extraocular movements
intact bilaterally, no nystagmus. Sensation intact V1-V3.  
Facial
movement symmetric.  Hearing intact to finger rub bilaterally. 
Palate elevation symmetrical.  Sternocleidomastoid and trapezius
normal bilaterally. Tongue midline, movements intact
 
Motor: 
Normal bulk bilaterally. Tone normal. No observed myoclonus or
tremor
LEFT pronator drift
  Del Tri Bi  WF WE FE FF  IP  H  Q DF PF TE TF
R  ___  ___  ___  ___  5  5
L  ___  ___  ___  5- 5  
 
Sensation: Decreased to pin-prick up to above knees, cold up to
mid calves, LT diffficult to assess.  Poor proprioception at
toes. Decreased Vibratory at toes.  No extinction to DSS
 
Reflexes: 
1+ at Bi/Tri.  Absent BR.  Absent knees, ankles.  
Toes downgoing bilaterally 
 
Coordination: finger-nose-finger mildly ataxic Bilateral, heel 
to
shin ataxic bilaterally left worse than right, RAMs poor. 
 
Gait: wide based, very unsteady and nearly falls within a few
steps.
 
Romberg: positive

 
Pertinent Results:
CHEST (PA & LAT)  ___ 3:07 ___

CHEST (PA & LAT)

Reason: for baseline 

UNDERLYING MEDICAL CONDITION:
___ year old man with new stroke 
REASON FOR THIS EXAMINATION:
for baseline 
CHEST RADIOGRAPH PERFORMED ON ___

COMPARISON: None.

CLINICAL HISTORY: ___ man with stroke, evaluate chest 
for acute process.

FINDINGS: PA and lateral views of the chest were obtained. 
Midline sternotomy wires and mediastinal clips likely from prior 
CABG. The lungs are clear bilaterally without evidence of 
pneumonia or CHF. No pleural effusions or evidence of 
pneumothorax. Cardiomediastinal silhouette is unremarkable with 
unfolded thoracic aorta noted. Visualized osseous structures are 
intact.

IMPRESSION:

No pneumonia.

CTA NECK W&W/OC & RECONS  ___ 1:37 ___
HEAD CT: There is no evidence of hemorrhage, edema, masses, or 
mass effect. There is a small hypodensity in the right side of 
the pons which may represent infarction. The ventricles and 
sulci are normal in caliber and configuration. No fractures are 
identified.

HEAD AND NECK CTA: The left vertebral artery is seen up to C2, 
however, there is dense calcification and a filling defect 
concerning for thrombosis. The right vertebral artery is not 
well seen. There is a small basilar artery. The intracranial 
internal carotid arteries are normal.

IMPRESSION: There is no evidence of hemorrhage. There is 
hypodensity in the pons on the right side which may represent 
infarct of undetermined age. There are dense calcifications 
within the left distal vertebral artery as well as a filling 
defect concerning for possible thrombosis. The right basilar 
artery is not well seen. Recommend MRI/MRA for more detailed 
evaluation.

ECHOCARDIOGRAM:
The left atrium is mildly dilated. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is mildly 
dilated. There is mild regional left ventricular systolic 
dysfunction with apical hypokinesis. The remaining segments 
contract normally (LVEF = 50%). No masses or thrombi are seen in 
the left ventricle. Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is a small pericardial 
effusion. The effusion appears circumferential.

IMPRESSION: No ASD/PFO seen. Dilated and hypertrophied left 
ventricle with mild regional systolic dysfunction.  
 
Brief Hospital Course:
___ yo man with PMH of schizophrenia, afib, CAD with CABG, HTN, 
DM, Seizure Disorder, Chronic Gait disorder, microscopic 
intracranial hemorrhages, polyneuropathy who presents as 
transfer from OSH after MRI showed a right pontine infarct. 

1) Left pontine infarct-
Subacute in onset based on MRI findings. Patient was not on 
aspirin given history of "microbleeds." These were not 
appreciated upon review of MRI scans here at ___. Basilar 
artery stenosis was noted by CTA however given significant risks 
of stenting and only minimal deficits from his infarct at 
presentation this was not pursued. Echocardiogram revealed EF of 
50% and not intracardiac thrombus. Left internal capsule infarct 
notable on outside MRI was old. On examination, he is somewhat 
disorganized with mild ataxia left > right, and very unsteady on 
his feet. His ataxia and gait unsteadyness improved during the 
course of his admission. He should continue on aspirin therapy 
and follow up with Dr. ___ at ___ Stroke neurology 
center in ___ weeks.

2) Gait Disorder:
Multifactorial. In addition to the new strokes, he has a chronic 
gait disorder and peripheral neuropathy on exam.  Contributing 
factors are his DM, HTN and Dilantin. He was started on zonegran 
in hopes of tapering dilantin off (see below).    

3) Seizure disorder:
The patient had a witnessed generalized tonic clonic seizure 
during this hospitalization. He has a seizure frequency of ___ 
per month at baseline. Given evidence for chronic dilantin 
toxicity he was transitioned to zonisamide. Once reaching his 
goal dose of 300mg QHS, he can be tapered off of dilantin over 
the course of 1 week. He should not drive or operate machinery. 
He should follow up with Dr. ___ neurologist) once 
discharged from rehab.

 
Medications on Admission:
isosorbide DM 20mmg, 2 tabs TID
Digoxin 250 ug, 1 tab daily
Simvastatin 80 daily
Benazepril 10mg BID
Metoprolol XR 100 daily
Metformin 850mg 1 tab TID
Lommotil 1 BID
Levamir Insulin as directed
Dilantin 100mg, 2 tablets TID and 50mg HS (total 650)
Celontin 300mg TID
Dicyclomne 20mg TID and HS
Prilosec OTC 20mg daily
Glyburide 5mg, 2 tabs, BID

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day). Tablet(s) 
3. Lisinopril 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

4. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO TID (3 times a day).  
6. Celontin 300 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day).  
7. Dicyclomine 10 mg Capsule Sig: Two (2) Capsule PO QID (4 
times a day).  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Zonisamide 100 mg Capsule Sig: Two (2) Capsule PO QHS (once 
a day (at bedtime)) for 1 weeks: take for 1 week.  
12. Zonisamide 100 mg Capsule Sig: Three (3) Capsule PO at 
bedtime: start in 1 week. ___ taper dilantin once taking this 
dose.  
13. Phenytoin 50 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QHS (once a day (at bedtime)).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute pontine infarction
Basilar Artery Stenosis
Seizure disorder

 
Discharge Condition:
Slight left sided dysmetria, difficulty with heel knee shin. 
Gait ataxia.

 
Discharge Instructions:
You were admitted following a new stroke that is likely related 
to high blood presure, high cholesterol. You were started on 
daily aspirin. 

It is essential that you take all medications, especially daily 
aspirin to prevent another stroke. Please take your seizure 
medicines as prescribed. Do not drive or operate machinery given 
your seizure disorder. We discussed seizure precautions such as 
not taking tub baths, swimming alone etc.

You were started on Zonisamide for seizures. You should continue 
taking this and slowly stop taking dilantin under the guidance 
of Dr. ___. 

Call your doctor or 911 if you experience any new weakness, 
numbness, tingling, difficulty speaking, chest pain, shortness 
of breath or any other concerning symptoms.
 
Followup Instructions:
___